US04025636
A suspension of 2-(p-chlorophenyl)-5-benzoxazolylacetic acid (26 g.) and p-toluene sulphonic acid (4.6 g.) in dry benzene (156 ml.) and dry absolute ethanol (78 ml.) was refluxed for 38 hours. Evaporation gave a solid which was dissolved in ethyl acetate (2 l) and washed with an aqueous saturated sodium bicarbonate solution (6 × 50 ml.). Evaporation of the organic phase gave ethyl 2-(2-p-chlorophenyl-5-benzoxazolyl)acetate as a solid (24.1 g.); m.pt. 133° C.

reactant | 2-(p-chlorophenyl)-5-benzoxazolylacetic acid | 26 g | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)CC(=O)O | C15H10ClNO3
reactant | p-toluene sulphonic acid | 4.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 156 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(2-p-chlorophenyl-5-benzoxazolyl)acetate | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)CC(=O)OCC | C17H14ClNO3
